US07094781B2
4-Amino-6-chloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)-pyrimidine (100 mg) was dissolved in THF (5 ml) and DCM (5 ml). DBU (46 mg) and DMAP (37 mg) were added followed by the addition of ethyl-sulfamoylchloride (prepared from ethylamine hydrochloride and sulfuryl chloride). The mixture was stirred for 12 h at r.t. The solvent was evaporated. Water and a 10% solution of citric acid were added followed by extraction with EtOAc and DCM. The combined organic layers were dried over sodium sulfate and the solvent was evaporated under reduced pressure. After purification of the residue by chromatography over silicagel with EtOAc/methanol/ammonia=4:1:0.5, ethyl sulfamic acid-[6-chloro-5-(o-methoxy-phenoxy)-2-(4-pyridyl)-pyrimidin-4-yl]-amide (10 mg) was obtained. tR=4.31 min, (LC); [M+H]+=436.14 (ES+).

reactant | 4-Amino-6-chloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)-pyrimidine | 100 mg | NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=CC=NC=C1 | C16H13ClN4O2
reactant | DBU | 46 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ethyl-sulfamoylchloride | C(C)NS(=O)(=O)Cl | C2H6ClNO2S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 37 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | ethyl sulfamic acid-[6-chloro-5-(o-methoxy-phenoxy)-2-(4-pyridyl)-pyrimidin-4-yl]-amide | 10 mg | ClC1=C(C(=NC(=N1)C1=CC=NC=C1)NS(NCC)(=O)=O)OC1=C(C=CC=C1)OC | C18H18ClN5O4S
